US06013764
A solution of NaOH(1.44 g, 36.0 mmol) in H2O (15.0 g) was added at 20-25° C. over 5 min to a mixture of Boc-Leu-Leu-Lys(Z)-Leu-Leu-OMe (SEQ. ID No. 2) (12.0 g, 14.16 mmol) THF (48.0 g) and H2O (18.0 g). The resulting mixture was stirred for 2 h. 98% Formic acid (5 g) was added, followed by ethyl acetate (30.0 g). The resulting organic phase was washed with H2O, concentrated in vacuo and the residue was dissolved in MeOH (60.0 g). The solids were filtered and rinsed with an additional portion of MeOH (8.0 g). The combined MeOH solution was heated to 60-65° C. and H2O (30.0 g) was added over 10 min. This mixture was cooled to 20-25° C., the solid product began to crystallize. An additional portion of H2O (35.0 g) was added and the mixture was stirred for 1 h. The solid product was filtered, washed with H2O and dried in vacuo to give Boc-Leu-Leu-Lys(Z)-Leu-Leu-OH (SEQ. ID No. 2) (11.5 g, 97.5%).

reactant | NaOH | 36.0 mmol, 1.44 g | [OH-].[Na+]
reactant | Boc-Leu-Leu-Lys(Z)-Leu-Leu-OMe | 14.16 mmol, 12.0 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)OC(C)(C)C | C44H74N6O10
reactant | THF | 48.0 g | C1CCOC1 | C4H8O
reactant | Formic acid | 5 g | C(=O)O | CH2O2
solvent | H2O | 15.0 g | O | H2O
solvent | H2O | 18.0 g | O | H2O
solvent | ethyl acetate | 30.0 g | C(C)(=O)OCC | C4H8O2
product | Boc-Leu-Leu-Lys(Z)-Leu-Leu-OH | 11.5 g, 97.5% | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C43H72N6O10
